data/mechanisms/records/IMS8-EQ8.46b.json
{"mechanism_id": "IMS8-EQ8.46b", "species": [{"species_id": "dihexyl_ether_molecular_ion", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][O+:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH3:13]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "n_hexyl_cation", "mapped_smiles": "[CH2+:7][CH2:8][CH2:9][CH2:10][CH2:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "n_hexyloxy_radical", "mapped_smiles": "[O:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH3:13]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dihexyl_ether_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["n_hexyl_cation", "n_hexyloxy_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 1]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 176, "equation": "8.46", "figure": null, "panel": null, "section": "8 Detailed Mechanisms of Ion Fragmentation (Eq. 8.46, inductive branch)"}, "confidence": 0.85, "curator_note": "Inductive (i) cleavage of the O-ionized di-n-hexyl ether molecular ion: the charge site O1(+) draws the C7-O1 sigma bonding pair fully onto oxygen, so the C7-O1 bond breaks heterolytically to give the n-hexyl cation C6H13(+) (m/z 85, 77%) and the neutral n-hexyloxy radical .O-C6H13 (the odd electron stays on O1). Book draws 0 electron-pushing arcs: the 'i' label sits on a reaction-pathway arrow with the radical loss '-.OC6H13' written beside it; no curved arrow is drawn. Encoded as ONE double-barbed (2-electron) heterolytic arrow: the C7-O1 bonding pair moves onto O1 (becomes an O1 lone pair), leaving C7 as the primary carbocation. The validator's soft note 'lone pair rather than radicals' on atom 1 is expected: the arriving pair is a lone pair, not two radicals."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 186.1973, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_85", "species_id": "n_hexyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 85.1006, "relative_intensity": 0.77, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
